US05308853
Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoic acid
A mixture of methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate (0.428 g, 0.65 mmol) and 2N HCl (12 mL) is refluxed for 1 hour in which time all the solid dissolved. Solvents are removed in vacuo and the mixture is evaporated from ethanol (5 mL) three times. The solid that results is treated with 5% aqueous sodium acetate (10 mL) and water (10 mL) to precipitate a gummy solid which is dissolved in methylene chloride (30 mL). The organic layer is dried over Na2SO4 and then evaporated in vacuo. The residue is recrystallized from hot ethyl acetate/hexane.

reactant | methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate | 0.65 mmol, 0.428 g | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1N=C(SC1)C)CC1=CC=C(C(=O)OC)C=C1 | C29H35N5O4S
reactant | HCl | 2N, 12 mL | Cl | ClH
reactant | sodium acetate | 10 mL | C(C)(=O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoic acid | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1N=C(SC1)C)CC1=CC=C(C(=O)O)C=C1 | C28H33N5O4S
